US06274588B1
In an analogous manner to that described in example 3b) starting from 2-benzoyl-3-dimethylamino-acrylic acid ethyl ester and butyramidine hydrochloride, followed by saponification as described in example 3c) there was obtained 4-phenyl-2-propyl-pyrimidine-5-carboxylic acid.

reactant | 2-benzoyl-3-dimethylamino-acrylic acid ethyl ester | C(C)OC(C(=CN(C)C)C(C1=CC=CC=C1)=O)=O | C14H17NO3
reactant | butyramidine hydrochloride | Cl.C(CCC)(=N)N
product | 4-phenyl-2-propyl-pyrimidine-5-carboxylic acid | C1(=CC=CC=C1)C1=NC(=NC=C1C(=O)O)CCC | C14H14N2O2
